US05604180
Preparation of 2-Bromo-5-[(2-chloro-α, α, α,6-tetrafluoro-p-tolyl)oxy]benzoyl chloride
A mixture of 2-bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzoic acid (15 g, 0.035 mol) in thionyl chloride (75 mL) is heated at 60° C. for 2 hours and concentrated in vacuo to give the title product.

reactant | 2-bromo-5-[(2-chloro-α,α,α,6-tetrafluoro-p-tolyl)oxy]benzoic acid | 0.035 mol, 15 g | BrC1=C(C(=O)O)C=C(C=C1)OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C14H6BrClF4O3
reactant | thionyl chloride | 75 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-Bromo-5-[(2-chloro-α, α, α,6-tetrafluoro-p-tolyl)oxy]benzoyl chloride | BrC1=C(C(=O)Cl)C=C(C=C1)OC1=CC(=C(C(=C1)F)C(F)(F)F)Cl | C14H5BrCl2F4O2
